US07135480B2
3-Cyano-1-(4-diethylamino-benzoyl)-pyrrolo[1,2-a]quinoline
1-(4-Diethylamino-phenacyl)-quinolinium bromide: The title compound was prepared from 2-bromo-1-(4-diethylamino phenyl) ethanone (2.23 g, 13.6 mmol), by a method similar to that described for the preparation of Example 1a, and yielded 1.67 g (92%). 1H NMR (DMSO-d6): 9.60 (d, J=6.0 Hz, 1H), 9.52 (d, J=8.4 Hz, 1H), 8.64 (d, J=8.1 Hz, 1H), 8.41 (d, J=9.9 Hz, 1H), 8.39 (d, J=7.5 Hz, 1H), 8.31 (t, J=6.9 Hz, 1H), 8.14 (dd, J=7.8, 6.9 Hz, 1H), 8.04, (d, J=8.7 Hz, 2H), 6.94 (d, J=8.4 Hz, 2H), 6.93 (s, 2H), 3.60 (q, J=8.4 Hz, 4H), 1.26 (t, J=6.6 Hz, 6H).

reactant | 1-(4-Diethylamino-phenacyl)-quinolinium bromide | [Br-].C(C)N(C1=CC=C(C(C[N+]2=CC=CC3=CC=CC=C23)=O)C=C1)CC
reactant | 2-bromo-1-(4-diethylamino phenyl) ethanone | 13.6 mmol, 2.23 g | BrCC(=O)C1=CC=C(C=C1)N(CC)CC | C12H16BrNO
product | 3-Cyano-1-(4-diethylamino-benzoyl)-pyrrolo[1,2-a]quinoline | C(#N)C=1C=C(N2C1C=CC1=CC=CC=C21)C(C2=CC=C(C=C2)N(CC)CC)=O | C24H21N3O
